US08193228B2
To 1-bromo-2-fluoro-4-hydroxybenzene (100 g, 0.52 mol) and K2CO3 (179.4 g, 1.3 mol) in 1300 mL acetone was added dimethyl sulfate (98.38 g, 0.78 mol). After refluxing overnight, the reaction mixture was cooled, filtered and dried over Na2SO4, and the filtrate was concentrated to afford 1-bromo-2-fluoro-4-methoxybenzene as a brown oil.

reactant | 1-bromo-2-fluoro-4-hydroxybenzene | 0.52 mol, 100 g | BrC1=C(C=C(C=C1)O)F | C6H4BrFO
reactant | K2CO3 | 1.3 mol, 179.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | dimethyl sulfate | 0.78 mol, 98.38 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | acetone | 1300 mL | CC(=O)C | C3H6O
product | 1-bromo-2-fluoro-4-methoxybenzene | BrC1=C(C=C(C=C1)OC)F | C7H6BrFO
